US07906511B2
2-Dimethylamino-4-methoxycarbonylpyrimidine (Reference Compound No. 2-1)
2-Dimethylamino-4-trifluoromethylpyrimidine (320 mg, 1.7 mmol, Reference Compound No. 1-1) and sodium hydroxide (670 mg, 17 mmol) were suspended in a mixed solvent of methanol (5.0 mL) and water (5.0 mL), and then the mixture was stirred while radiated with microwave for 2 and a half hours at 160° C. in a sealed tube. The reaction mixture was diluted with ethyl acetate (30 mL), and extracted with water (30 mL), and then extracted with saturated aqueous sodium hydrogencarbonate solution (30 mL). The extracted aqueous layer was adjusted to pH7 with 6M hydrochloric acid, and was concentrated under reduced pressure. The remaining residue was suspended in N,N-dimethylformamide (5.0 mL), then sodium hydrogencarbonate solution (1.3 g, 14 mmol) and methyl iodide (0.87 mL, 17 mmol) were added thereto, and the whole was stirred for 23 hours at room temperature. The reaction mixture was diluted with ethyl acetate (100 mL), washed twice with saturated aqueous sodium hydrogencarbonate solution (100 mL), and then washed twice with brine (100 mL), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to give 28 mg of the title Reference Compound as a colorless needle (Yield: 9.3%)

reactant | 2-Dimethylamino-4-trifluoromethylpyrimidine | CN(C1=NC=CC(=N1)C(F)(F)F)C | C7H8F3N3
reactant | sodium hydroxide | 17 mmol, 670 mg | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 14 mmol, 1.3 g | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 17 mmol, 0.87 mL | CI | CH3I
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5.0 mL | O | H2O
solvent | methanol | 5.0 mL | CO | CH4O
product | 2-Dimethylamino-4-methoxycarbonylpyrimidine | Yield: 9.3% | CN(C1=NC=CC(=N1)C(=O)OC)C | C8H11N3O2
